US09126980B2
Step 1: Preparation of 5-bromo-2-hydrazinylbenzoic acid hydrochloride
To a suspension of 2-amino-5-bromobenzoic acid (50.0 g, 231.5 mmol) in conc. HCl (250 mL) at −10° C. was added a solution of sodium nitrite (23.92 g, 347.2 mmol) in water (250 mL), slowly, followed by stirring for 2 h. To this reaction mixture was slowly added a solution of stannous chloride (130.50 g, 225.6 mmol) in conc. HCl (125 mL) with continued stirring at RT for 12 h. The reaction mixture was filtered, the residue washed with the minimum amount of water and vacuum dried to afford the title compound as and ‘off white’ solid 61 g (100%), which was used for next step without further purification. Rf=0.10 (ethyl acetate); 1H NMR (400 MHz, DMSO-d6): δ 11.60-9.60 (brs, 3H), 7.93 (d, J=2.4 Hz, 1H), 7.72 (dd, J=2.4 & 8.8 Hz, 1H), 7.12 (d, J=8.8 Hz, 1H); ES-MS: m/z 229.1 (M−H).

reactant | 2-amino-5-bromobenzoic acid | 231.5 mmol, 50.0 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | sodium nitrite | 347.2 mmol, 23.92 g | N(=O)[O-].[Na+]
reactant | HCl | 250 mL | Cl | ClH
reactant | HCl | 125 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
product | 5-bromo-2-hydrazinylbenzoic acid hydrochloride | Cl.BrC=1C=CC(=C(C(=O)O)C1)NN | InChI=1S/C7H7BrN2O2.ClH/c8-4-1-2-6(10-9)5(3-4)7(11)12;/h1-3,10H,9H2,(H,11,12);1H
